US05340701
Preparation of 2,4-dibenzyloxy-6-chloropyrimidine
The reaction is carried out under an argon protective-gas atmosphere. 24.8 ml (0.24 mol) of absolute benzyl alcohol in 100 ml of THF are added dropwise at 25° C. to 9.6 g of NaH (0.24 mol, 60% suspension in paraffin) in 120 ml of tetrahydrofuran (THF). The reaction mixture is warmed at 50° C. for 0.5 hour, cooled and then added dropwise to a solution, cooled to 0° C., of 13.8 ml of 2,4,6-trichloropyrimidine in 100 ml of THF. The mixture is allowed to warm to 25° C. overnight, and is then poured into 200 ml of water. After extraction with toluene three times, the combined organic phases are washed with 100 ml of water, dried using MgSO4, filtered and evaporated on a rotary evaporator. Filtration through silica gel (eluent ethyl acetate:hexane 1:1) gives 39.9 g (100% of theory) of the title product.

reactant | benzyl alcohol | 0.24 mol, 24.8 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | NaH | 0.24 mol | [H-].[Na+]
reactant | 2,4,6-trichloropyrimidine | 13.8 ml | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | water | 200 ml | O | H2O
solvent | THF | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | THF | 100 ml | O1CCCC1 | C4H8O
product | 2,4-dibenzyloxy-6-chloropyrimidine | C(C1=CC=CC=C1)OC1=NC(=CC(=N1)OCC1=CC=CC=C1)Cl | C18H15ClN2O2
